US08802864B2
a) 6-bromo-1-methyl-1H-indole
A solution of 6-bromo-1H-indole (1.530 mmol) in dimethyl sulfoxide (10 mL) was treated with potassium carbonate (4.59 mmol) and was stirred at room temperature for 30 min. The solution was then treated with methyl iodide (1.683 mmol) and was stirred at room temperature overnight. The solution was diluted with water (100 mL) and was extracted with ethyl acetate. The combined organic phases were washed with water and brine, dried over magnesium sulfate, filtered and concentrated in vacuo. The crude residue was purified by silica gel chromatography (hexanes) to provide the title compound as a yellow oil (62%). 1H NMR (400 MHz, DMSO-d6) δ ppm 7.70 (s, 1H) 7.50 (d, J=8.34 Hz, 1H) 7.35 (d, J=3.03 Hz, 1H) 7.14 (dd, J=8.34, 1.77 Hz, 1H) 6.44 (d, J=3.03 Hz, 1H) 3.78 (s, 3H).

reactant | 6-bromo-1H-indole | 1.530 mmol | BrC1=CC=C2C=CNC2=C1 | C8H6BrN
reactant | potassium carbonate | 4.59 mmol | C([O-])([O-])=O.[K+].[K+]
reactant | methyl iodide | 1.683 mmol | CI | CH3I
solvent | dimethyl sulfoxide | 10 mL | CS(=O)C | C2H6OS
solvent | water | 100 mL | O | H2O
product | 6-bromo-1-methyl-1H-indole | 62% | BrC1=CC=C2C=CN(C2=C1)C | C9H8BrN
